US06255285B1
A suspension of 2.35 g (4.50 mmol) of N-benzyl-2-(4-benzyloxy-3-tert-butylphenyl)-1-methyl-N-(benzyloxycarbonyl)ethylamine and 0.50 g of a 20% palladium hydride on carbon catalyst in methanol (30 ml) was stirred overnight in a hydrogen atmosphere. After filtering off the catalyst, the solvent was distilled off under reduced pressure to give 2-(3-tert-butyl-4-hydroxyphenyl)-1-methylethylamine in the amount of 0.90 g (96%).

reactant | N-benzyl-2-(4-benzyloxy-3-tert-butylphenyl)-1-methyl-N-(benzyloxycarbonyl)ethylamine | 4.50 mmol, 2.35 g | C(C1=CC=CC=C1)NC(C(C1=CC(=C(C=C1)OCC1=CC=CC=C1)C(C)(C)C)C(=O)OCC1=CC=CC=C1)C | C35H39NO3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium hydride | [PdH2]
product | 2-(3-tert-butyl-4-hydroxyphenyl)-1-methylethylamine | C(C)(C)(C)C=1C=C(C=CC1O)CC(C)N | C13H21NO
